US06576748B1
1,10-Decanediol (174 grams, 1.0 mol), isatoic anhydride (367 g, 2.25 mol; obtained from Sigma-Aldrich), 1,4-diazabicyclo[2.2.2]octane (22.4 grams, 0.20 mol), and dimethyl formamide (500 milliliters) were combined in 2 liter beaker and the resulting mixture was heated at 120° C. for 1 hour. The mixture was then cooled to room temperature and was treated first with methanol (1,500 milliliters) and then with water (500 milliliters). The solution turned cloudy, and then formed crystals. The crystal suspension was stirred for 2 hours at room temperature, and then was filtered. The solid was washed with 4×200 milliliter portions of a 75:25 (volume:volume) mixture of methanol/water, and then was dried to give 1,10-decanediyl dianthranilate as a light beige solid (119 grams, 29 percent yield). The product was adjudged to be highly pure (greater than 98 percent) by 1H-NMR1 The melting point of this product as measured by Differential Scanning Calorimetry was 77° C.

reactant | 1,10-Decanediol | 1.0 mol, 174 grams | C(CCCCCCCCCO)O | C10H22O2
reactant | isatoic anhydride | 2.25 mol, 367 g | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | 1,4-diazabicyclo[2.2.2]octane | 0.20 mol, 22.4 grams | N12CCN(CC1)CC2 | C6H12N2
reactant | dimethyl formamide | 500 milliliters | CN(C=O)C | C3H7NO
solvent | water | 500 milliliters | O | H2O
solvent | methanol | 1,500 milliliters | CO | CH4O
product | 1,10-decanediyl dianthranilate | 119 grams, 29 percent yield | C(C=1C(N)=CC=CC1)(=O)OCCCCCCCCCCOC(C=1C(N)=CC=CC1)=O | C24H32N2O4
